US04530922
Preparation of [bis(4-Fluorophenyl)](trimethylsilyloxy)(1H-imidazol-1-ylmethy)silane
To a solution of 1.5 g (0.0047 mol) of bis(4-fluorophenyl)hydroxy(1H-imidazol-1-ylmethyl)silane in 20 ml of tetrahydrofuran was added 0.8 ml (0.0063 mol) of chlorotrimethylsilane. A solution of 0.8 ml (0.0057 mol) of triethylamine in 5 ml of tetrahydrofuran is added dropwise, giving a thick white precipitate. The mixture is stirred overnight at room temperature, then filtered and concentrated to an oil. The residue is taken up in ether, filtered, and the filtrate is evaporated to afford the title compound.

reactant | bis(4-fluorophenyl)hydroxy(1H-imidazol-1-ylmethyl)silane | 0.0047 mol, 1.5 g | FC1=CC=C(C=C1)[Si](CN1C=NC=C1)(O)C1=CC=C(C=C1)F | C16H14F2N2OSi
reactant | chlorotrimethylsilane | 0.0063 mol, 0.8 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | triethylamine | 0.0057 mol, 0.8 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | [bis(4-Fluorophenyl)](trimethylsilyloxy)(1H-imidazol-1-ylmethy)silane | FC1=CC=C(C=C1)[Si](CN1C=NC=C1)(O[Si](C)(C)C)C1=CC=C(C=C1)F | C19H22F2N2OSi2
